US05763449
The maltitol was similarly admixed with Phase F to form Phase G to which the ammonium glycyrrhizinate was added with another about 5 minutes mixing time being used. The flavors and colorants were then admixed, with a mixing time of about 5 minutes, followed by addition of a sufficient amount of liquid fructose to make the desired volume and mixing to homogeneity. The pH value was thereafter adjusted to be between 4 and 5 using a citric acid or sodium citrate solution. This composition provides 100 mg of guaifenesin per 5 mL (teaspoon).

reactant | fructose | OCC(=O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | sodium citrate | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-].[Na+].[Na+].[Na+]
product | guaifenesin | 100 mg | COC=1C=CC=CC1OCC(CO)O | C10H14O4
